US07601714B2
4-{[(trans-4-azetidin-1-ylcyclohexyl)methyl]amino}-2-{[2-(trifluoromethoxy)benzyl]amino}pyrimidine-5-carbonitrile
To a solution of 4-{[(trans-4-aminocyclohexyl)methyl]amino}-2-{[2-(trifluoromethoxy)benzyl]-amino}pyrimidine-5-carbonitrile (150 mg, 0.36 mmol) in DMF (1 mL) were added 1,3-dibromo-propane (86 mg, 0.43 mmol) and DIPEA (124 μL, 0.71 mmol). The reaction mixture was stirred at 50° C. for 24 h. The reaction mixture was then diluted with EtOAc and washed with NaHCO3 (×1) and water (×4). The organic phase was dried over anhydrous Na2SO4 and concentrated in vacuo. The resulting residue was purified by silica gel preparative TLC using 10:1:0.2 CH2Cl2:MeOH:NH4OH as an eluent to afford 54 mg (33%) of the title compound as a white solid, m/z 461.6 (M+1)+.

reactant | 4-{[(trans-4-aminocyclohexyl)methyl]amino}-2-{[2-(trifluoromethoxy)benzyl]-amino}pyrimidine-5-carbonitrile | 0.36 mmol, 150 mg | N[C@@H]1CC[C@H](CC1)CNC1=NC(=NC=C1C#N)NCC1=C(C=CC=C1)OC(F)(F)F | C20H23F3N6O
reactant | 1,3-dibromo-propane | 0.43 mmol, 86 mg | BrCCCBr | C3H6Br2
reactant | DIPEA | 0.71 mmol, 124 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-{[(trans-4-azetidin-1-ylcyclohexyl)methyl]amino}-2-{[2-(trifluoromethoxy)benzyl]amino}pyrimidine-5-carbonitrile | 54 mg, 33% | N1(CCC1)[C@@H]1CC[C@H](CC1)CNC1=NC(=NC=C1C#N)NCC1=C(C=CC=C1)OC(F)(F)F | C23H27F3N6O
